US04173639
1-(2,6-Dichlorobenzoyl)-3-(6-(2,2,2-Trifluoroethoxy)-3-Pyridinyl)Urea
2-(2,2,2-Trifluoroethoxy)-5-aminopyridine (0.5 gram) and 2,6-dichlorobenzoyl isocyanate (0.5 gram) were mixed in ethyl acetate, and the reaction mixture stirred overnight (about 18 hours) at room temperature. Solvent was removed by evaporation and the product residue crystallized from ethyl acetate-hexanes, yield 0.6 gram, m.p., 146°-148° C.

reactant | 2-(2,2,2-Trifluoroethoxy)-5-aminopyridine | 0.5 gram | FC(COC1=NC=C(C=C1)N)(F)F | C7H7F3N2O
reactant | 2,6-dichlorobenzoyl isocyanate | 0.5 gram | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-Dichlorobenzoyl)-3-(6-(2,2,2-Trifluoroethoxy)-3-Pyridinyl)Urea | ClC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)OCC(F)(F)F)C(=CC=C1)Cl | C15H10Cl2F3N3O3
